US09238640B2
Preparation of 2-(2-methylpyridin-4-yl)-6-(morpholinomethyl)quinazolin-4(3H)-one
To a solution of 2-amino-5-morpholin-4-ylmethyl-benzamide (0.58 g, 2.4 mmol) and 2-methyl-pyridine-4-carbaldehyde (0.3 g, 2.4 mmol) in N,N-dimethylacetamide (10 mL) were added NaHSO3 (58.5 wt %, 0.48 g, 2.7 mmol) and p-TSA (0.23 g, 1.2 mmol) and the reaction mixture was heated at 115° C. for 16 hours, and the solvent was removed under reduced pressure. The crude compound was purified by column chromatography (silica gel 230-400 mesh; eluting with 4% methanolic ammonia in dichloromethane) to give the title compound as a white solid. Yield: 0.18 g (22%). MP 267-268° C. 1H NMR (400 MHz, DMSO-d6): δ 11.74 (br s, 1H), 8.77 (d, J=5.4 Hz, 1H), 8.29 (s, 1H), 8.07 (s, 1H), 7.94-7.83 (m, 3H), 3.75 (t, J=4.2 Hz, 4H), 3.74 (s, 2H), 2.77 (s, 6H), 2.53-2.46 (m, 4H). MS (ES+) m/z: 337.41 (M+1).

reactant | 2-amino-5-morpholin-4-ylmethyl-benzamide | 2.4 mmol, 0.58 g | NC1=C(C(=O)N)C=C(C=C1)CN1CCOCC1 | C12H17N3O2
reactant | 2-methyl-pyridine-4-carbaldehyde | 2.4 mmol, 0.3 g | CC1=NC=CC(=C1)C=O | C7H7NO
reactant | NaHSO3 | 2.7 mmol, 0.48 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.2 mmol, 0.23 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2-methylpyridin-4-yl)-6-(morpholinomethyl)quinazolin-4(3H)-one | CC1=NC=CC(=C1)C1=NC2=CC=C(C=C2C(N1)=O)CN1CCOCC1 | C19H20N4O2
